US07452992B2
A solution of 1-{[tert-butyl(dimethyl)silyl]oxy}-5-chloro-3-phenylpentan-3-ol ((5.2 g, 15.7 mmol) and NaN3 (7.8 g, 120 mmol) in 50 mL DMF was stirred for 24 h at 65° C. The reaction mixture was then diluted with EtOAc, washed with water, dried, filtered and evaporated in vacuo to provide 1-azido-5-{[tert-butyl(dimethyl)silyl]oxy) 3-phenylpentan-3-ol in quantitative yield as a yellow oil. 1H NMR (400 MHz, CDCl3): δ 7.40-7.32 (m, 4H), 7.24 (m, 1H), 4.89 (s, 1H), 3.72 (dt, 1H, J=10.3, 3.9 Hz), 3.47-3.36 (m, 2H), 2.97 (ddd, 1H, J=12.3, 10.1, 5.5 Hz), 2.24-2.10 (m, 2H), 2.07-1.93 (m, 2H), 0.86 (s, 9H), −0.02, (s, 3H), −0.09 (s, 3H); ESI-MS 358 (M+Na).

reactant | 1-{[tert-butyl(dimethyl)silyl]oxy}-5-chloro-3-phenylpentan-3-ol | [Si](C)(C)(C(C)(C)C)OCCC(CCCl)(O)C1=CC=CC=C1 | C17H29ClO2Si
reactant | NaN3 | 120 mmol, 7.8 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-azido-5-{[tert-butyl(dimethyl)silyl]oxy) 3-phenylpentan-3-ol | quantitative yield | N(=[N+]=[N-])CCC(CCO[Si](C)(C)C(C)(C)C)(O)C1=CC=CC=C1 | C17H29N3O2Si
